US09359340B2
A solution of (5R,7R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride (31.7 mg, 0.103 mmol) and potassium 3-(tert-butylamino)-2-(4-chlorophenyl)propanoate (30.3 mg, 0.103 mmol) in DMF (1.0 mL) was treated with DIEA (38 uL, 0.217 mmol) and HBTU (43 mg, 114 mmol), respectively, at room temperature. The mixture was allowed to stir for 18 hours to completion, and the solution was partitioned between ethyl acetate and water. The aqueous was extracted twice, and the organics were combined. The organic portion was washed with water (3×), then brine, separated, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by reverse phase chromatography (eluted with water:acetonitrile gradients modified with 1% ammonium acetate) to afford the pure 3-(tert-butylamino)-2-(4-chlorophenyl)-1-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one (20 mg, 41%) as a white solid. LCMS (APCI+) m/z 472.2 [M+H]+.

reactant | (5R,7R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride | 0.103 mmol, 31.7 mg | Cl.Cl.C[C@@H]1C[C@H](C=2N=CN=C(C21)N2CCNCC2)O
reactant | potassium 3-(tert-butylamino)-2-(4-chlorophenyl)propanoate | 0.103 mmol, 30.3 mg | C(C)(C)(C)NCC(C(=O)[O-])C1=CC=C(C=C1)Cl.[K+]
reactant | DIEA | 0.217 mmol, 38 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 114 mmol, 43 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 3-(tert-butylamino)-2-(4-chlorophenyl)-1-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one | 20 mg, 41% | C(C)(C)(C)NCC(C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)O)C2=CC=C(C=C2)Cl | C25H34ClN5O2
